Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Quinidine-Quinine Analogues / Nsaids / Lipitor / Ampicillin / 
clindamycin / fluconazole / Vioxx / Mevacor
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___: Cardiac Catheterization with ___ 1 to OM

 
History of Present Illness:
Mr. ___ is a ___ with PMHx of htn, DM2, HLD, CAD s/p 
stenting x 3 on ___ presenting to the ED with chest pain. This 
morning the patient awoke with right sided chest pain. Described 
as an ache, worse with exertion. Associated with nausea and SOB. 
He took nitroglycerin which improved his pain.

ED COURSE
In the ED intial vitals were:  98.7 67 111/68 15 98% RA 
EKG: NSR with IVCD/LBBB, ST depression with TWI in lateral leads 
which are same as previous EKG. 
Labs/studies notable for: troponin 0.09, crt 1.4 (1.2 at 
discharge), BUN 21 
Patient was given:  Aspirin 243 mg, IV heparin gtt, and nitro 
gtt. Cardiology was consulted and recommended admission to ___ 
to rule out ACS. 
Vitals on transfer: 98.6 95/60 18 95% RA  

On the floor...  

REVIEW OF SYSTEMS: On review of systems, denies any prior 
history of stroke, TIA, deep venous thrombosis, pulmonary 
embolism, bleeding at the time of surgery, myalgias, joint 
pains, cough, hemoptysis, black stools or red stools. Denies 
recent fevers, chills or rigors. Denies exertional buttock or 
calf pain. All of the other review of systems were negative.  

Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  
 
Past Medical History:
- CAD
 - CABG in ___ (LIMA-D1, SVG-OM, jump SVG-rPDA-PLV)  
 - PCI ___ BMS to SVG  
 - PCI ___ with DES to distal SVG  
 - PCI of the SVG-OM and SVG-PDA with drug-eluting stents 
___  
 - PTCA of SVG-OM on ___
 - PCI ___: DES of ostial SVG-OM and mid native ISR of OM 
branch DES of distal RCA PLV branch via SVG o dRCA  
- ISCHEMIC CARDIOMYOPATHY: LVEF 50% (___)  
- Dual-chamber ICD (DDD mode) for primary prevention, with 
generator change in ___  
- History of NSVT, no defibrillations required  

OTHER PAST MEDICAL HISTORY:  
- Hypertension
- Hyperlipidemia
- Diabetes mellitus  
- BPH  
- CKD, baseline Cr 1.2-1.3 

PAST SURGICAL HISTORY:
- Cholecystectomy  
- Appendectomy  
- Bilateral knee arthroscopy  
- Herniorrhaphy
 
Social History:
___
Family History:
Father with CAD. Brother with CAD, CHF. Siblings with DM2.
 
Physical Exam:
==========================
ADMISSION PHYSICAL EXAM
==========================
Weight 77.2kg
VS: T= 98.0  BP=104/57  HR=69  RR=18   O2 sat=97%RA 
GENERAL: WDWN elderly male in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP of <8 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts. 
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  Distal pulses palpable and symmetric
.
.
==========================
DISCHARGE PHYSICAL EXAM
==========================
Weight 78.4kg
Vitals: 99.0/98.2   58 (58-103)   91/51 (91/51-119/75)   16   
95%RA
GENERAL: WDWN elderly male in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP of <8 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts. 
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.
 
Pertinent Results:
=====================
ADMISSION LABS
=====================
___ 02:33PM BLOOD WBC-9.8 RBC-5.03 Hgb-15.1 Hct-46.0 MCV-92 
MCH-30.0 MCHC-32.8 RDW-12.5 RDWSD-41.2 Plt ___
___ 02:33PM BLOOD Neuts-58.2 ___ Monos-9.3 Eos-1.0 
Baso-0.6 Im ___ AbsNeut-5.67 AbsLymp-2.99 AbsMono-0.91* 
AbsEos-0.10 AbsBaso-0.06
___ 02:33PM BLOOD ___ PTT-32.2 ___
___ 02:33PM BLOOD Glucose-102* UreaN-21* Creat-1.4* Na-136 
K-4.2 Cl-100 HCO3-25 Calcium-9.4 Phos-3.9 Mg-2.0
.
.
=====================
PERTINENT COURSE LABS
=====================
___ 08:05AM BLOOD Glucose-135* UreaN-23* Creat-1.3* Na-135 
K-4.1 Cl-101 HCO3-21* AnGap-17
___ 06:55AM BLOOD Glucose-140* UreaN-27* Creat-1.5* Na-135 
K-4.2 Cl-98 HCO3-23 AnGap-18
___ 07:05PM BLOOD UreaN-24* Creat-1.3* Na-132* K-3.8 Cl-100
.
___ 02:33PM BLOOD cTropnT-0.09*
___ 09:05PM BLOOD CK-MB-1 cTropnT-0.10*
___ 08:05AM BLOOD cTropnT-0.09*
___ 03:05PM BLOOD cTropnT-0.10*
___ 07:05PM BLOOD CK-MB-2 cTropnT-0.06*
___ 05:50AM BLOOD CK-MB-3 cTropnT-0.05*
.
.
=====================
DISCHARGE LABS
=====================
___ 05:50AM BLOOD WBC-9.1 RBC-4.36* Hgb-13.5* Hct-39.6* 
MCV-91 MCH-31.0 MCHC-34.1 RDW-12.3 RDWSD-40.5 Plt ___
___ 05:50AM BLOOD Glucose-124* UreaN-21* Creat-1.2 Na-134 
K-4.3 Cl-101 HCO3-23 Calcium-8.9 Phos-3.2 Mg-1.9
.
.
=====================
IMAGING
=====================
CXR ___:
FINDINGS: 
Dual lead left-sided pacer device is stable in position.  
Cardiac and mediastinal silhouettes are stable as compared to ___.  Re-demonstrated is calcification of the apical 
septal mild cardia M. no new focal consolidation is seen.  No 
pleural effusion or pneumothorax is seen. No pulmonary edema is 
seen.
IMPRESSION:
No acute cardiopulmonary process.
.
.
TTE ___:
Conclusions
--Extremely limited image quality. The left ventricle is not 
well seen. Overall left ventricular systolic function is 
severely depressed. The right ventricular free wall is 
hypertrophied. Right ventricular chamber size is normal with 
moderate global free wall hypokinesis. The aortic valve is not 
well seen. There is no aortic valve stenosis. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Trivial mitral regurgitation is seen. There is no 
pericardial effusion.
--Compared with the prior study (images reviewed) of ___, 
left ventricular contractile function appears depressed, but the 
technically suboptimal nature of both studies precludes 
definitve comparison. 
.
.
Cardiac Catheterization ___:
Coronary Anatomy
Dominance: Right
-LMCA: The native LAD and CX were known to be occluded 
proximally, so the LMCA was not imaged.
-RCA: The native RCA was known occluded proximally and was not 
imaged.
-SVG-OM: The ostial SVG stent was patent. There was mild 
plaquing in the proximal SVG. The mid SVG between 2 clips had a 
hazy 40-50% stenosis overlying a ___ clip with a linear flap 
consistent with an ulcerated and possibly dissected plaque 
(likely at a prior venous valve). There was a smooth 40-50% 
stenosis distally proximal to patent recent stent in the distal 
SVG. Flow was TIMI 2 pulsatile in the SVG.
-SVG-RPDA-RPL2: There was a smooth 50% stenosis in the proximal 
SVG. The mid SVG had diffuse mild plaquing. The SVG anastomosed 
onto the lower pole of the RPDA with antegrade perfusion only 
(the lower pole RPDA was occluded retrogradely at the 
anastomosis). The recently stented portion of the large RPL2 was 
patent. There was an eccentric 50-60% stenosis at the origin of 
the RPL2. The RPL2 supplied antegrade flow to a diffusely 
diseased RPL3 with serial 70% stenoses and poor distal runoff. 
The RPL2 supplied retrograde flow into a diseased native RCA 
which supplied a modest caliber modest caliber RPL1 branch and 
the severely diseased upper/distal pole of the RPDA (with total 
occlusion of the grafted earlier/lower pole at its origin). 
There was also antegrade flow from the SVG into the distal 
grafted RPL2.
-___: The LIMA had been documented to be patent 2 
procedures ago and was not imaged today.
Interventional Details
-The findings were discussed by telephone with Dr. ___ 
Dr. ___. Decision ultimately made to stent the ulcerated 
lesion in the mid SVG-OM and defer PCI of the origin of the RPL2 
(which did not seem severe enough to cause rest pain). There was 
clearly extensive severe small vessel native CAD
not amenable to PCI.
-Change for a 6 ___ AL-1 guiding catheter with provided 
adequate support. Additional heparin was given to achieve a 
therapeutic ACT. An 180 cm Sion Blue wire was delivered into the 
native OM over which a 3.0 mm Spider FX embolic protection 
device was exchanged. The mid SVG-OM lesion was directly stented 
using a 3.5x16 mm RX Promus Premier drug-eluting stent deployed 
at 11 atm. Final angiography after IG nicardipine showed a 5% 
residual stenosis, no apparent dissection, and TIMI 3 flow, with 
unchanged disease in the proximal and distal SVG. The patient 
reported no chest discomfort during balloon inflation, but did 
have some bilateral arm discomfort that may have been 
positional. A TR Band was applied to the LRA with good 
hemostasis. An additional dose of clopidogrel 300 mg was 
administered at the conclusion of the case. The patient left the 
cardiac catheterization laboratory pain free and in stable 
condition. Angiograms were reviewed with Dr. ___.
 
Brief Hospital Course:
___ year-old man with CAD S/P CABG with known occlusions of the 
proximal LAD, LCX and RCA, S/P multiple PCIs, most recently 
___ (drug-eluting stent to ostial SVG-OM and another 
drug-eluting stent at the distal anastomosis, drug-eluting stent 
in the RPDA approached retrogradely
through the SVG-RPDA), S/P ICD for primary prevention (EF 20%) 
who returns with ongoing rest pain.
.
## CHEST PAIN:
Absence of ST elevation on EKG and minimal troponin elevation 
were not consistent with in-stent thrombosis. Team considered it 
most likely patient's symptoms were either related to small 
vessel disease or narrowing in areas that had not been subject 
to intervention previously, or, less likely, that he had a stent 
complication such as dissection.
.
Initial troponin was mildly elevated (0.09) from troponin 2 days 
prior (0.07). He was pain free on arrival to floor and nitro gtt 
was stopped, while heparin gtt was continued. Home medications 
including ___ 81, metoprolol, rosuvastatin, and 
pantoprazole were continued. Home lisinopril was held in 
anticipation of possible contrast load with cardiac 
catheterization. He remained pain free until reporting some mild 
CP overnight HD1, which resolved with SL nitro x 2. His EKG at 
the time was unchanged. Troponin increased to 0.1 morning of HD 
2. Nitroglycerin gtt was restarted. He was maintained on heparin 
and nitro gtt HD2 without symptoms with plan for cath HD 3 until 
he again had chest tightness and epigastric discomfort 
overnight. Troponins were cycling and remained stably elevated 
at 0.09->0.1->0.09->0.1.
.
Morning of HD3 he was taken urgently to cath lab for evaluation 
and was was found to have ulcerated lesion of mid SVG-OM. ___ 
1 was placed to SVG-OM with subsequent TIMI 3 flow. Lesion with 
50-60% stenosis of origin of the RPL2 was noted but did not seem 
severe enough to cause rest pain, so stent was deferred. There 
was clearly also extensive severe small vessel native CAD not 
amenable to PCI. Patient was chest pain free after stent 
placement. Ambulating without difficulty or discomfort prior to 
discharge and cleared by physical therapy. 
.
## HFrEF: Previously with depressed EF 20%, which was impetutus 
for ICD placement.  Patient's most recent echo with EF 19%. Home 
furosemide was held ___ but restarted prior to discharge 
and he remained euvolemic. Home metoprolol XL 100mg was 
fractionated to tartrate 25mg Q6H for admission.
.
## HYPERLIPIDEMIA: Continued home rosuvastatin, dose limited by 
history of myalgias.
.
# HTN: Home lisinopril held ___, restarted prior to 
discharge.
.
=======================
TRANSITIONAL ISSUES
=======================
--Patient was already on ___ need to continue ___ 
for ___ year as previously planned
--Home dose of rosuvastatin was not increased because of 
patient's history of myalgias with higher statin doses
- Chest pain free post cath
- No changes made to home medications
- Needs to follow-up with PCP and cardiology as scheduled
- Full code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clopidogrel 75 mg PO DAILY 
2. Diazepam 2.5-5 mg PO QHS:PRN restless legs 
3. Furosemide 20 mg PO EVERY OTHER DAY 
4. Lisinopril 20 mg PO DAILY 
5. Metoprolol Tartrate 50 mg PO BID 
6. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
7. Pantoprazole 40 mg PO Q24H:PRN reflux/heartburn 
8. Rosuvastatin Calcium 20 mg PO QPM 
9. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
every day Disp #*30 Tablet Refills:*11
2. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth every day Disp #*30 
Tablet Refills:*11
3. Diazepam 2.5-5 mg PO QHS:PRN restless legs 
4. Metoprolol Tartrate 50 mg PO BID 
5. Pantoprazole 40 mg PO Q24H:PRN reflux/heartburn 
6. Rosuvastatin Calcium 20 mg PO QPM 
7. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
8. Furosemide 20 mg PO EVERY OTHER DAY 
9. Lisinopril 20 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
NSTEMI

Secondary: 
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at the ___ 
___. 

You were admitted because you had a heart attack caused by 
narrowing of one of your vessels. You underwent cardiac 
catheterization and a stent was placed in one of your blood 
vessels. Your chest discomfort improved after the procedure. 

We made no changes to your medications. You will need to take 
both aspirin and ___ for at least ___ year. Do not stop taking 
either of these medications unless instructed to do so by a 
cardiologist or you are likely to form a blood clot in your 
stent and die.

What to do when you get home:
--Take your medications as prescribed, do not miss doses of your 
aspirin and ___ under any circumstance
--Weigh yourself every day and call your doctor if your weight 
increases by 3 lbs or more
--Follow up with your cardiologist and primary care doctor as 
scheduled

We wish you a speedy recovery,
Your ___ Cardiology team
 
Followup Instructions:
___